US08466167B2
Step 1: tert-butyl 2-fluorophenylcarbamate
To a solution of 2-fluoroaniline (1.0 eq.) in tetrahydrofuran (0.2 M) at 0° C. under N2 atmosphere was added dropwise 1M NaHMDS (2.5 eq.). The reaction was stirred for 15 minutes at 0° C., and a solution of di-tert-butyl dicarbonate in tetrahydrofuran was added. The reaction was warmed to room temperature overnight. The solvent was evaporated, and the resulting residue was quenched with 0.1N HCl aqueous solution. The aqueous suspension was extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous MgSO4, and concentrated en vacuo. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-5% ethyl acetate in hexane to give product as light yellow oil.

reactant | 2-fluoroaniline | 1.0 eq. | FC1=C(N)C=CC=C1 | C6H6FN
reactant | NaHMDS | 1M, 2.5 eq. | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 0.2 M | O1CCCC1 | C4H8O
product | tert-butyl 2-fluorophenylcarbamate | FC1=C(C=CC=C1)NC(OC(C)(C)C)=O | C11H14FNO2
